US05880135
17 g of 5-nitro-1-tetrahydropyran-2-ylindole are dissolved in 170 ml of methanol and then 3 g of 10% Pd-on-charcoal and then, portionwise at 0° C., 20.6 g of ammonium formate are added. After stirring for 1 hour 30 at room temperature, the reaction mixture is filtered and the filtrate is evaporated to dryness. The residue is taken up in 300 ml of ethyl acetate. The solution is washed with 800 ml of water, dried over sodium sulphate and evaporated to dryness. 14.2 g of 5-amino-1-tetrahydropyran-2-ylindole are obtained in the solid form. A sample is purified by chromatography on a column of silica gel eluted with a 3/1 (v/v) cyclohexane/ethyl acetate mixture, to provide (Compound 29). 1H NMR (DMSO): 1.30-2.20 (m, 6H), 3.59-3.93 (m, 2H), 4.72 (m, 2H), 5.41 (dd, J=1.8, 12.0, 1H), 6.16 (d, J=3.2, 1H), 6.52 (dd, J=2.0, 8.6, 1H), 6.66 (d, J=2.0, 1H), 7.20 (d, J=8.6, 1H), 7.27 (d, J=3.2, 1H).

reactant | 5-nitro-1-tetrahydropyran-2-ylindole | 17 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)C1OCCCC1 | C13H14N2O3
reactant | ammonium formate | 20.6 g | C(=O)[O-].[NH4+]
solvent | methanol | 170 ml | CO | CH4O
product | 5-amino-1-tetrahydropyran-2-ylindole | 14.2 g | NC=1C=C2C=CN(C2=CC1)C1OCCCC1 | C13H16N2O
